US04329347
4-Methyl-6-(4-phenylsulfinyl-butoxy)-carbostyril
Prepared analogous to Example 140 from 4-methyl-6-hydroxy-carbostyril (m.p. 326°-330° C.) and 4-phenylsulfinyl-butyl bromide.

reactant | 4-methyl-6-hydroxy-carbostyril | CC1=CC(NC2=CC=C(C=C12)O)=O | C10H9NO2
reactant | 4-phenylsulfinyl-butyl bromide | C1(=CC=CC=C1)S(=O)CCCCBr | C10H13BrOS
product | 4-Methyl-6-(4-phenylsulfinyl-butoxy)-carbostyril | CC1=CC(NC2=CC=C(C=C12)OCCCCS(=O)C1=CC=CC=C1)=O | C20H21NO3S
